US07452886B2
B. 7-(2,2-Dimethyl-propyl)-6-(1-ethyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]dec-8-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile
To a solution of 2,4-dioxo-1,3,8-triaza-spiro[4.5]decane-3,8-dicarboxylic acid di-tert-butyl ester (0.4 g, 1.1 mmol) in DMF (8 ml), NaH (80 mg, 2.2 mmol) and ethyl bromide (166 □1, 2.16 mmol) are added at room temperature. The reaction mixture is stirred at ambient temperature for 15 h, quenched with saturated ammonium clroride and extracted with AcOEt. The organic layer is washed with brine, dried over magnesium sulfate and filtrated. To a solution of 1-ethyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]decane-3,8-dicarboxylic acid di-tert-butyl ester (1.1 mmol) in CH2Cl2 (10 ml), TFA (10 ml) are added at 0° C. The reaction mixture is stirred at room temperature for 1 h. After removal of the solvent, ethyl ether is added to the residue to give 34 mg of desired product in 10% yield. To a solution of 1-ethyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione (30 mg, 0.096 mmol) in DMSO (1 ml), potassium carbonate (13.8 mg, 0.1 mmol) and 6-bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (30.7 mg, 0.1 mmol) are added to the mixture at ambient temperature. The reaction mixture is stirred at ambient temperature for 3 h, quenched with saturated ammonium clroride and extracted with AcOEt. The combined extracts are washed with H2O, brine and dried over magnesium sulfate. The combined extracts are concentrated and the residue is purified by reverse phase preparative HPLC to give 20 mg of desired product in 3.6% yield.

reactant | 1-ethyl-1,3,8-triaza-spiro[4.5]decane-2,4-dione | 0.096 mmol, 30 mg | C(C)N1C(NC(C12CCNCC2)=O)=O | C9H15N3O2
reactant | potassium carbonate | 0.1 mmol, 13.8 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 6-bromomethyl-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.1 mmol, 30.7 mg | BrCC1=CC2=C(N=C(N=C2)C#N)N1CC(C)(C)C | C13H15BrN4
solvent | DMSO | 1 ml | CS(=O)C | C2H6OS
product | 7-(2,2-Dimethyl-propyl)-6-(1-ethyl-2,4-dioxo-1,3,8-triaza-spiro[4.5]dec-8-ylmethyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 20 mg, 3.6% yield | CC(CN1C(=CC2=C1N=C(N=C2)C#N)CN2CCC1(C(NC(N1CC)=O)=O)CC2)(C)C | C22H29N7O2
